data/pmechdb/original/mc_train_fold0/raw/train.txt
CNC(=O)CNC(=O)[O:21][CH2:20][C-:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1>>CNC(=O)CNC(=O)[O-:21].[CH2:20]=[C:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1 10=20;20,21=21
C[C:20](=[O+:21]C)C.[OH2:10]>>C[C:20](C)([OH2+:10])[O:21]C 10=20;20,21=21
[B-](C)(C)(C)[O:10]CCC[N+:21](=[C:20](C)C)C>>[B-](C)(C)(C)[O+:10]1CCC[N:21]([C:20]1(C)C)C 10=20;20,21=21
CCOC(=O)CCCC[CH:20]=[CH:21][CH:22](C1C(CC(=O)C1CCC(=O)OCC)O[Si](C)(C)C(C)(C)C)[S+:23](C2=CC=CC=C2)[O-:10].CO.COP(OC)OC>>CCOC(=O)CCCC[CH:20]([CH:21]=[CH:22]C1C(CC(=O)C1CCC(=O)OCC)O[Si](C)(C)C(C)(C)C)[O:10][S:23]C2=CC=CC=C2.CO.COP(OC)OC 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1(CCN(CC1)C2=CN=C(C=C2)NC3=NC4=C(C=N3)C(=C(C(=O)N4C5CCCC5)C(=O)C)C)C([N+]6=CC=C(C=C6)N(C)C)([O-])OCCCC.CN(C)C1=CC=[N:10]C=C1.[Cl-]>>[H:20][N+:10]1=CC=C(C=C1)N(C)C.CCCCOC([N:21]1CCN(CC1)C2=CN=C(C=C2)NC3=NC4=C(C=N3)C(=C(C(=O)N4C5CCCC5)C(=O)C)C)([N+]6=CC=C(C=C6)N(C)C)[O-].[Cl-] 10=20;20,21=21
[H:10][Al-:11](CC(C)C)(CC(C)C)[O+:21]=[C:20](CCC)OCCC>>[H:10][C:20](CCC)(OCCC)[O:21][Al:11](CC(C)C)CC(C)C 10,11=10,20;20,21=21
[H:20][N+:21]12CC(=O)O[Cu-]1OC(=O)C2.[OH-:10]>>[H:20][OH:10].C1C(=O)O[Cu-]2[N:21]1CC(=O)O2 10=20;20,21=21
[Li+:20].CC1(CCCC(=C1)[O:10][Si-](C)(C)(C)C)C>>[Li:20][O+:10](C1=CC(CCC1)(C)C)[Si-](C)(C)(C)C 10=20,
C[CH:20]([C:10](=[CH:11][O-:12])C)[OH:21]>>C[CH:20]=[C:10](C)[CH:11]=[O:12].[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=C(C=C[C+:22]1O)C)CC2=COC(C(C2OCCCC)OCCCC)COCCCC.CC(=O)[O-:10].B(F)(F)F>>[H:20][O:10]C(=O)C.CCCCOCC1C(C(C(=CO1)C[C:21]2=[C:22](C=CC(=C2)C)O)OCCCC)OCCCC.B(F)(F)F 10=20;20,21=21,22
CC1CC(=[NH+]C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C)O[C:20](=[O:21])C(F)(F)F.C(=O)(C(F)(F)F)[O-:10]>>CC1CC(=[NH+]C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C)O[C:20](C(F)(F)F)([O-:21])[O:10]C(=O)C(F)(F)F 10=20;20,21=21
[H:20][C:21]1=C(C=CC=C1F)OC(=[O+][Li-][N:10](C(C)C)C(C)C)N(C(C)C)C(C)C>>[H:20][N+:10]([Li-][O+]=C(N(C(C)C)C(C)C)OC1=[C-:21]C(=CC=C1)F)(C(C)C)C(C)C 10=20;20,21=21
CC1(N(C(CO1)[CH:20]=[O:21])C(=O)OC(C)(C)C)C.C[Si-:11](C)(C)([C:10]1=NC=CS1)F.CCCC[N+](CCCC)(CCCC)CCCC>>CC1(N(C(CO1)[CH:20]([C:10]2=NC=CS2)[O-:21])C(=O)OC(C)(C)C)C.C[Si:11](C)(C)F.CCCC[N+](CCCC)(CCCC)CCCC 10,11=10,20;20,21=21
C(C=C[CH:20]([O-:10])[O:21][AlH2])[O-]>>C(C=C[CH:20]=[O:10])[O-].[O-:21][AlH2] 10=20;20,21=21
[H:20][OH2+:21].CC1=C(C=C2[C:10]3=[C:11](C(CC2=C1)(C(CC3)O)C)[N:12]4CCCC4)OC.[Cl-]>>[H:20][C:10]12CCC(C([C:11]1=[N+:12]3CCCC3)(CC4=CC(=C(C=C24)OC)C)C)O.[OH2:21].[Cl-] 10,11=10,20;20,21=21;12=11
CCN(CC)[C:22](=[OH+:23])[CH:21]=[CH2:20].CC[SH:10]>>CCN(CC)[C:22](=[CH:21][CH2:20][SH+:10]CC)[OH:23] 10=20;22,23=23;20,21=21,22
[H:20][CH2:21]S(=O)(=O)Cl.CC[N:10](CC)CC.CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCCCO.CN1C(C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)O>>[H:20][N+:10](CC)(CC)CC.[CH2-:21]S(=O)(=O)Cl.CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCCCO.CN1C(C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)O 10=20;20,21=21
CCO[C:20](C)([O-:10])[O:21]C>>CCO[C:20](=[O:10])C.C[O-:21] 10=20;20,21=21
[H:20][C:21]1([C:22]2=[C:23](C=CC=C2)[C:24](=[O+:25]1)C3=CC=CC=C3)C4=CC=CC=C4.[OH2:10].CO.C(=O)(C(F)(F)F)[O-].[Mg+]Br>>C1=CC=C(C=C1)[C:21]2=[C:22]3C=CC=C[C:23]3=[C:24]([O:25]2)C4=CC=CC=C4.[H:20][OH2+:10].CO.C(=O)(C(F)(F)F)[O-].[Mg+]Br 10=20;24,25=25;20,21=21,22;22,23=23,24
CC(=O)[O:21][C:20](C)(C#CCO)[O-:10]>>C[C:20](=[O:10])C#CCO.CC(=O)[O-:21] 10=20;20,21=21
[H:20][N+:21](=C(C)C1=CN=CC=C1)O.C1=CC=[N:10]C=C1.O.[Cl-]>>[H:20][N+:10]1=CC=CC=C1.CC(=[N:21]O)C1=CN=CC=C1.O.[Cl-] 10=20;20,21=21
[Li:10][OH+:11]C(CC)[O-]>>[Li+:10].CCC([OH:11])[O-] 10,11=11
CCCC[NH:10][C:20]1(CCCC2=C(C=NC=C21)Br)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1>>CCCC[NH+:10]=[C:20]1CCCC2=C(C=NC=C21)Br.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1 10=20;20,21=21
[H:20][CH:21](CCCC(=O)OCC)[C:22](=[O:23])OCC.CC[O-:10]>>[H:20][O:10]CC.CCOC(=O)CCC[CH:21]=[C:22]([O-:23])OCC 10=20;22,23=23;20,21=21,22
[BH3-][OH:10].[CH2:20]=[NH2+:21]>>[BH3-][OH+:10][CH2:20][NH2:21] 10=20;20,21=21
CC[O:21][CH:20](C1CCCCC1=O)[O-:10]>>CC[O-:21].C1CCC(=O)C(C1)[CH:20]=[O:10] 10=20;20,21=21
CC[C:20](C)([N:10]1CCCC1)[OH2+:21]>>CC[C:20](=[N+:10]1CCCC1)C.[OH2:21] 10=20;20,21=21
CC(C)[CH:20]=[O+:21]C.[OH2:10]>>CC(C)[CH:20]([OH2+:10])[O:21]C 10=20;20,21=21
C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F.C1CC(=[O:10])OC2=C1C=CC=C2.C[Si](C)(C)OCCO[Si](C)(C)C>>C[Si-:20](C)(C)(OS(=O)(=O)C(F)(F)F)[O+:10]=C1CCC2=C(O1)C=CC=C2.C[Si](C)(C)OCCO[Si](C)(C)C 10=20,
CCN[C:20](CCC(=O)OCC)([OH:10])[Cl:21]>>CCN[C:20](=[OH+:10])CCC(=O)OCC.[Cl-:21] 10=20;20,21=21
C[S:20][S:21]C.[Cl-:10]>>C[S-:21].C[S:20][Cl:10] 10=20;20,21=21
C[C:20](C)([Br:10])[Br:21]>>C[C:20](=[Br+:10])C.[Br-:21] 10=20;20,21=21
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OC3CCN(CCC4=CC5=C(C=C34)OCO5)C(=O)C6=C(C(=CC=C6Br)OC)OC)[O:11]C(=O)C.CC(=O)O>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OC3CCN(CCC4=CC5=C(C=C34)OCO5)C(=O)C6=C(C(=CC=C6Br)OC)OC.CC(=O)O 10,11=11
CC1[CH:20]([OH+:21]1)[OH:10]>>CC([CH:20]=[OH+:10])[OH:21] 10=20;20,21=21
